US07476688B2
(Step 4) 4-Benzyl-3-propyl-3,4-dihydro-2H-5-pyrrolyl methyl ether
Trimethyloxonium tetrafluoroborate (0.85 g, 5.7 mmol) was added to a solution of 3-benzyl-4-propyl-2-pyrrolidinone (0.83 g, 3.8 mmol) in methylene chloride (15 ml) and the mixture was stirred at room temperature for 14 hours. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture to render it weekly basic and then extraction was performed with ethyl acetate. After washing the organic layer with brine and drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (0.67 g) as a light yellow oil. 1H-NMR (CDCl3) δ(ppm) 0.75 (3H, t, J=7.2 Hz), 1.02-1.28 (4H, m), 2.02-2.16 (1H, m), 2.55-2.66 (1H, m), 2.69 (1H, dd, J=13.2 Hz, 8.4 Hz), 2.99 (1H, dd, J=13.2 Hz, 4.8 Hz), 3.10 (1H, dd, J=13.2 Hz, 5.2 Hz), 3.58 (1H, dd, J=13.2 Hz, 8.8 Hz), 3.83 (3H, s), 7.05-7.40 (5H, m)

reactant | Trimethyloxonium tetrafluoroborate | 5.7 mmol, 0.85 g | F[B-](F)(F)F.C[O+](C)C
reactant | 3-benzyl-4-propyl-2-pyrrolidinone | 3.8 mmol, 0.83 g | C(C1=CC=CC=C1)C1C(NCC1CCC)=O | C14H19NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-Benzyl-3-propyl-3,4-dihydro-2H-5-pyrrolyl methyl ether | 0.67 g | COC=1C(C(CN1)CCC)CC1=CC=CC=C1 | C15H21NO
